US07582775B2
D. 6-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-2-carboxylic acid ethyl ester
A solution of 6-[1-ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-benzo[b]thiophene-2-carboxylic acid ethyl ester (0.780 g, 2.04 mmol) and 1-bromopinacolone (0.731 g, 4.08 mmol) in acetone (30 mL) is treated with K2CO3 (0.563 g, 4.08 mmol) and stirred at RT for 4 h. The mixture is filtered, and the filtrate is concentrated. The residue is purified using silica gel column chromatography (10-15% EtOAc/Hex) to provide the title compound (0.89 g, 91%).

reactant | 6-[1-ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-benzo[b]thiophene-2-carboxylic acid ethyl ester | 2.04 mmol, 0.780 g | C(C)OC(=O)C1=CC2=C(S1)C=C(C=C2)C(CC)(C2=CC(=C(C=C2)O)C)CC | C23H26O3S
reactant | 1-bromopinacolone | 4.08 mmol, 0.731 g | BrCC(C(C)(C)C)=O | C6H11BrO
reactant | K2CO3 | 4.08 mmol, 0.563 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | 6-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-2-carboxylic acid ethyl ester | 0.89 g, 91% | C(C)OC(=O)C1=CC2=C(S1)C=C(C=C2)C(CC)(CC)C2=CC(=C(C=C2)OCC(C(C)(C)C)=O)C | C29H36O4S
